US07417002B2
To the boron carbide powder, 14.5 mol % of the submicron-size or nano-size titanium dioxide powder and 21.5 mol % of carbon black were incorporated, and using a methanol solvent, mixing was carried out by a planetary ball mill made of silicon carbide (SiC) at a rotational speed of 270 rpm for 1 hour, followed by drying by a evaporator and further by drying at 150° C. for 24 hours. Then, the mixture was sieved through a sieve with an opening of 250 μm to obtain a boron carbide-titanium dioxide-carbon mixed powder.

reactant | boron carbide | B12B3C14B2B43 | CB4
reactant | titanium dioxide | [O-2].[O-2].[Ti+4]
reactant | carbon black | C | CH4
reactant | silicon carbide | [C-]#[Si+] | CSi
solvent | methanol | CO | CH4O
product | boron carbide titanium dioxide carbon | B12B3C14B2B43.[O-2].[O-2].[Ti+4].[C] | InChI=1S/CB4.C.2O.Ti/c2-1-3(2)5(1)4(1)2;;;;/q;;2*-2;+4
